US04748253
A solution of 2-bromo-1-(4'-methoxy-phenyl)-ethanone (5 g, 22 mmol), triethyl orthoformate (9 g, 61 mmol), methanesulfonic acid (0.3 g, 3.1 mmol) and ethanol (20 ml) is kept at 40° C. for 3 h. The solution is poured, under vigorous stirring, into a saturated sodium carbonate solution (0.2 l) and extracted with ethyl ether (3×50 ml). The combined organic extract is washed with a 2% sodium hydrogen carbonate solution. Evaporation of the solvent in vacuo leaves an oil, which is crystallized from methanol to give 2-bromo-1,1-diethoxy-1-(4'-methoxy-phenyl)-ethane (5 g, 16 mmol, yield: 73%) as analytically pure product.

reactant | 2-bromo-1-(4'-methoxy-phenyl)-ethanone | 22 mmol, 5 g | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
reactant | triethyl orthoformate | 61 mmol, 9 g | C(OCC)(OCC)OCC | C7H16O3
reactant | methanesulfonic acid | 3.1 mmol, 0.3 g | CS(=O)(=O)O | CH4O3S
reactant | sodium carbonate | 0.2 l | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-bromo-1,1-diethoxy-1-(4'-methoxy-phenyl)-ethane | 16 mmol, 5 g, yield: 73% | BrCC(C1=CC=C(C=C1)OC)(OCC)OCC | C13H19BrO3
